US06586429B2
A mixture of (R)-1-(5-acetoxyhexyl)-7-benzyl-3-methyl-8-(N-(trifluoroacetoxy)aminomethyl)xanthine (1.0 g, 1.9 mmol) and 10% palladium on carbon (50% water, 300 mg) in glacial acetic acid (50 ml) was treated with hydrogen gas (80 psi) on a Parr sharker at room temperature for 18 hours. After filtering through a pad of celite, the filtrate was concentrated under reduced pressure to provide (R)-1-(5-acetoxyhexyl)-3-methyl-8-(N-(trifluoroacetoxy)aminomethyl)xanthine (700 mg, 85% yield) as a white powder.

reactant | (R)-1-(5-acetoxyhexyl)-7-benzyl-3-methyl-8-(N-(trifluoroacetoxy)aminomethyl)xanthine | 1.9 mmol, 1.0 g | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(N(C2C1=O)CC1=CC=CC=C1)CNOC(C(F)(F)F)=O)C)C | C24H28F3N5O6
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (R)-1-(5-acetoxyhexyl)-3-methyl-8-(N-(trifluoroacetoxy)aminomethyl)xanthine | 700 mg, 85% yield | C(C)(=O)O[C@@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNOC(C(F)(F)F)=O)C)C | C17H22F3N5O6
